US08633211B2
[(S)-1-(2-{1-[(5-Chloro-2,4-dimethoxy-phenylcarbamoyl)-methyl]-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl}-acetyl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester
To a vial charged with {1-[(5-chloro-2,4-dimethoxy-phenylcarbamoyl)-methyl]-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl}-acetic acid (50.1 mg, 0.11 mmol), HATU (50.1 mg, 0.12 mmol), and (R)-pyrrolidin-3-yl-carbamic acid tert butyl ester (22.8 mg, 0.12 mmol), DMF (3 ml) was added. The stirring mixture is treated with DIPEA (33 μL, 0.275 mmol) and stirred at RT. Water is added to the mixture with stirring giving rise to a solid. This is filtered off and washed with water to afford the title compound; [M+H]+ 616

reactant | {1-[(5-chloro-2,4-dimethoxy-phenylcarbamoyl)-methyl]-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl}-acetic acid | 0.11 mmol, 50.1 mg | ClC=1C(=CC(=C(C1)NC(=O)CN1C(N(C(C2=CC=CC=C12)=O)CC(=O)O)=O)OC)OC | C20H18ClN3O7
reactant | HATU | 0.12 mmol, 50.1 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (R)-pyrrolidin-3-yl-carbamic acid tert butyl ester | 0.12 mmol, 22.8 mg | C(C)(C)(C)OC(N[C@H]1CNCC1)=O | C9H18N2O2
reactant | DIPEA | 0.275 mmol, 33 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | Water | O | H2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | [(S)-1-(2-{1-[(5-Chloro-2,4-dimethoxy-phenylcarbamoyl)-methyl]-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl}-acetyl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1CN(CC1)C(CN1C(N(C2=CC=CC=C2C1=O)CC(NC1=C(C=C(C(=C1)Cl)OC)OC)=O)=O)=O)=O | C29H34ClN5O8
